US07238702B2
Part A. tert-Butyl 2-(2-carbamoyl-3,4-dichlorophenylamino)ethylcarbamate
A mixture of 2,3-dichloro-6-fluorobenzamide (4.0 g, 19.32 mmol.), K2CO3 (5.33 g, 38.64 mmol), and N-Boc-ethylenediamine (3.41 g, 21.25 mmol) and dimethylacetamide (50 mL). was heated at 140° C. for 18 h. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (100 mL) and washed with a solution of aqueous saturated sodium bicarbonate (3×100 mL). The ethyl acetate layer was dried over sodium sulfate and concentrated to give the title compound (5.50 g, 82% yield) as a brown gum.

reactant | 2,3-dichloro-6-fluorobenzamide | 19.32 mmol, 4.0 g | ClC1=C(C(=O)N)C(=CC=C1Cl)F | C7H4Cl2FNO
reactant | K2CO3 | 38.64 mmol, 5.33 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-Boc-ethylenediamine | 21.25 mmol, 3.41 g | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
reactant | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 2-(2-carbamoyl-3,4-dichlorophenylamino)ethylcarbamate | 5.50 g, 82% yield | C(N)(=O)C1=C(C=CC(=C1Cl)Cl)NCCNC(OC(C)(C)C)=O | C14H19Cl2N3O3
